US04857507
(3S,4S)-1-(2-propylmercaptoacetylamino)-3-hydroxy-4-tertbutyloxycarbonylamino-5-cyclohexylpentane
To (2-propylmercapto)acetic acid (44.3 mg, 0.33 mmol) in the THF (3 mL) at 0°(b) was added N-methylmorpholine (37 microliters, 0.34 mmol) followed by isobutylchloroformate (43 microliters, 0.33 mmol). The mixture was stirred at 0° C. for 15 minutes and (3S,4S)-1-amino-3-hydroxy-4-t-butyloxycarbonylamino-5-cyclohexylpentane (51.0 mg, 0.17 mmol) was added followed by stirring at 0° C. for 15 minutes and at 25° C. for 2 hours. The mixture was poured into ethyl acetate, washed with 0.5 M H3PO4, 2 M Na2SO4 and evaporated to afford 36 mg (50%) of the desired compound. Mass spectrum: (M+1)+ =417.

reactant | (2-propylmercapto)acetic acid | 0.33 mmol, 44.3 mg | CC(C)SCC(=O)O | C5H10O2S
reactant | N-methylmorpholine | 0.34 mmol, 37 microliters | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 0.33 mmol, 43 microliters | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | (3S,4S)-1-amino-3-hydroxy-4-t-butyloxycarbonylamino-5-cyclohexylpentane | 0.17 mmol, 51.0 mg | NCC[C@@H]([C@H](CC1CCCCC1)NC(=O)OC(C)(C)C)O | C16H32N2O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,4S)-1-(2-propylmercaptoacetylamino)-3-hydroxy-4-tertbutyloxycarbonylamino-5-cyclohexylpentane | 36 mg, 50% | C(CC)SCC(=O)NCC[C@@H]([C@H](CC1CCCCC1)NC(=O)OC(C)(C)C)O | C21H40N2O4S
